US04729994
To a solution of 7.06 g (0.028 mole) of (S)-2-[[2-(3,4-dimethoxyphenyl)ethyl]methylamino]-1-propanol hydrochloride in 100 ml of chloroform was added 4.8 ml (0.067 mole) of thionyl chloride and the reaction was heated to reflux for 3 hr. The reaction was cooled and the solvent was evaporated in vacuo to give 3.09 g of (S)-N-(2-chloro-1-methylethyl)-3,4-dimethoxy-N-methylbenzeneethaneamine hydrochloride as a brown glass (43%).

reactant | (S)-2-[[2-(3,4-dimethoxyphenyl)ethyl]methylamino]-1-propanol hydrochloride | 0.028 mole, 7.06 g | Cl.COC=1C=C(C=CC1OC)CCN([C@H](CO)C)C
reactant | thionyl chloride | 0.067 mole, 4.8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | (S)-N-(2-chloro-1-methylethyl)-3,4-dimethoxy-N-methylbenzeneethaneamine hydrochloride | 3.09 g, 43% | Cl.ClC[C@H](C)N(CCC1=CC(=C(C=C1)OC)OC)C | InChI=1S/C14H22ClNO2.ClH/c1-11(10-15)16(2)8-7-12-5-6-13(17-3)14(9-12)18-4;/h5-6,9,11H,7-8,10H2,1-4H3;1H/t11-;/m0./s1
